US07452895B2
Preparation of 4-aminomethyl-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester
4-Aminomethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester is prepared from 1-oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester (Bourrain et al Bioorg. Med. Chem. Lett. 9(23):3369-3374 (1999)). Concentrated aqueous NH4OH (6 mL) is added to a solution of 1-oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester (0.50 g, 2.3 mmol) in MeOH (4 mL) at 0° C. The reaction mixture is removed from the cooling and allowed to warm to room temperature. After 7 hours, the reaction mixture is concentrated under reduced pressure to afford desired product as a white solid.

reactant | 1-oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
reactant | NH4OH | 6 mL | [NH4+].[OH-]
reactant | 1-oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester | 2.3 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
solvent | MeOH | 4 mL | CO | CH4O
product | 4-aminomethyl-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CN | C11H22N2O3
